### PR TITLE
feat: strong sensitivity conjecture by Nisan and Szegedy

### PR DESCRIPTION
**Pull request by mjsong32**
This PR adds the Strong Sensitivity Conjecture (bs(f) ≤ s(f)^2) by Nisan and Szegedy (1994). Added upon request from Fred Zhang. Note that Huang’s celebrated result, often referred to simply as *the* sensitivity theorem, establishes only the weaker quartic bound bs(f) ≤ s(f)^4.

It includes definitions of sensitivity, block sensitivity, the formal conjecture statement, and brief literature background on the problem.

### CODE REVIEW

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean
Comment (mo271) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean:1]: Perhaps it might be better to move part of the main docstring to the theorem and the corresponding definitions. Right now "/-- Strong Sensitivity Conjecture -/" for the conjecture is not helpful for anyone that doesn't already now what it is

Comment (mo271) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean:1]: Might it be a good idea to add an example of a boolean function so that both sensitivities are different (and the inequality is satisfied. You good add them as `@[category test]`

**Comment by mjsong32** [comment]
Thanks so much for the review! I revised the docstrings and added an example boolean function `nisanExample` under `@[category test]`. Please let me know if anything else needs revision.

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 1]
```diff
@@ -0,0 +1,125 @@
...
+resolving the most widely known form of the sensitivity conjecture.
+
+We now ask whether a stronger upper bound holds. Interestingly, the original
+paper of Nisan and Szegedy, where the sensitivity conjecture first appeared, 
+already speculated that a *quadratic* upper bound might be the correct
+relation. On the lower bound side, Rubinstein
+(https://link.springer.com/article/10.1007/BF01200762) constructed Boolean functions
+exhibiting the first quadratic separation. The best currently
+known gap, due to Ambainis and Sun (https://arxiv.org/abs/1108.3494), is
+`bs(f) ≥ (2/3)⋅s(f)^2`.
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]:
```suggestion

This file formalizes the *strong* sensitivity conjecture, asserting:

For every Boolean function `f : {0,1}^n → {0,1}`, 
`bs(f) ≤ s(f)^2`,
where bs(f) denotes block sensitivity and s(f) denotes sensitivity.

Huang's theorem proves a *quartic* upper bound, `bs(f) ≤ s(f)^4`, thereby
resolving the most widely known form of the sensitivity conjecture.

We now ask whether a stronger upper bound holds. Interestingly, the original
paper of Nisan and Szegedy, where the sensitivity conjecture first appeared, 
already speculated that a *quadratic* upper bound might be the correct
relation. On the lower bound side, Rubinstein
(https://link.springer.com/article/10.1007/BF01200762) constructed Boolean functions
exhibiting the first quadratic separation. The best currently
known gap, due to Ambainis and Sun (https://arxiv.org/abs/1108.3494), is
`bs(f) ≥ (2/3)⋅s(f)^2`.

*References:*
* [Induced Subgraphs of Hypercubes and a Proof of the Sensitivity Conjecture](https://arxiv.org/abs/1907.00847)
  by Hao Huang (see Section 3, Concluding Remarks)
* [Variations on the Sensitivity Conjecture](https://arxiv.org/abs/1011.0354)
  by Pooya Hatami, Raghav Kulkarni, and Denis Pankratov (see Question 3.1)
* [On the Degree of Boolean Functions as Real Polynomials](https://link.springer.com/article/10.1007/BF01263419)
  by Noam Nisan, and Mario Szegedy (see Section 4, Open Problems)
```

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 2]
```diff
@@ -0,0 +1,125 @@
...
+  (cB : Set (Finset (Fin n))).PairwiseDisjoint id ∧ 
+  ∀ B ∈ cB, f (flip x B) ≠ f x
+
+-- Local block sensitivity bs(f,x)
+/-- maximum size of a collection of sensitive, disjoint blocks for `f` at `x`. -/
+noncomputable def blockSensitivityAt (f : (Fin n → Bool) → Bool) (x : Fin n → Bool) : ℕ :=
+  (univ.filter (fun cB => isValidBlockConfig f x cB)).sup card
+
+-- Global block sensitivity bs(f)
+/-- maximum block sensitivity of `f` over all inputs. -/
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]: What's up with these comment + docstring pairs? Would it be better to incorporate the comments into the docstrings? eg
```suggestion
/-- Global block sensitivity of `f`, maximum block sensitivity of `f` over all inputs. -/
```

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 3]
```diff
@@ -0,0 +1,125 @@
...
+`bs(f) ≤ s(f)^2`.
+
+We call this the *strong* sensitivity conjecture because the original sensitivity
+conjecture only asked for a polynomial bound in terms of `s(f)`. Huang's
+celebrated result (often called the sensitivity theorem) gives a quartic bound,
+`bs(f) ≤ s(f)^4`, thereby settling the original conjecture.
+-/
+@[category research open, AMS 68]
+theorem strong_sensitivity_conjecture {n : ℕ} (f : (Fin n → Bool) → Bool) :
+  blockSensitivity f ≤ (sensitivity f) ^ 2 := by
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]:
```suggestion
    blockSensitivity f ≤ sensitivity f ^ 2 := by
```

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 4]
```diff
@@ -0,0 +1,125 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+namespace StrongSensitivityConjecture
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]: Can you put this namespace after the docstring?

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 5]
```diff
@@ -0,0 +1,125 @@
...
+
+* `s(f) = n/2`,  
+* `bs(f) = 3n/4`.
+
+The value of `bs(f)` comes from using all `n/2` 1-bits as singleton blocks,
+and pairing the `n/2` 0-bits into `n/4` disjoint size-2 blocks.
+-/
+@[category test]
+def nisanExample (n : ℕ) (x : Fin n → Bool) : Bool :=
+  let w := (univ.filter fun i => x i = true).card
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]:
```suggestion
  let w := #{i | x i}
```

**Comment by mjsong32** [comment]
Thanks for the suggestions! I've incorporated them and updated the docstrings.

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 6]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- Flip operator,
+`flip x B` returns input `x` with bits in block `B` inverted. -/
+def flip (x : Fin n → Bool) (B : Finset (Fin n)) : Fin n → Bool :=
+  fun i => if i ∈ B then !(x i) else x i
+
+/-- Local sensitivity s(f,x),
+number of indices where flipping one bit changes the value of `f`. -/
+def sensitivityAt (f : (Fin n → Bool) → Bool) (x : Fin n → Bool) : ℕ :=
+  (univ.filter fun i => f (flip x {i}) ≠ f x).card
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]:
```suggestion
  #{i | f (flip x {i}) ≠ f x}
```

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 7]
```diff
@@ -0,0 +1,127 @@
...
+
+/-- Global sensitivity s(f),
+maximum sensitivity of `f` over all inputs. -/
+def sensitivity (f : (Fin n → Bool) → Bool) : ℕ :=
+  univ.sup (sensitivityAt f)
+
+/-- Check validity of block collection (disjoint and sensitive),
+A collection of blocks `cB` is valid for `f` at `x` if the blocks are
+disjoint and flipping any block changes `f(x)`. -/
+def isValidBlockConfig (f : (Fin n → Bool) → Bool) (x : Fin n → Bool)
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]:
```suggestion
def IsValidBlockConfig (f : (Fin n → Bool) → Bool) (x : Fin n → Bool)
```

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 8]
```diff
@@ -0,0 +1,127 @@
...
+    (cB : Finset (Finset (Fin n))) : Prop :=
+  (cB : Set (Finset (Fin n))).PairwiseDisjoint id ∧
+  ∀ B ∈ cB, f (flip x B) ≠ f x
+
+/-- Local block sensitivity bs(f,x),
+maximum size of a collection of sensitive, disjoint blocks for `f` at `x`. -/
+noncomputable def blockSensitivityAt (f : (Fin n → Bool) → Bool) (x : Fin n → Bool) : ℕ :=
+  (univ.filter (fun cB => isValidBlockConfig f x cB)).sup card
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]:
```suggestion
  Finset.sup {cB | IsValidBlockConfig f x cB} card
```

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 9]
```diff
@@ -0,0 +1,127 @@
...
+A Boolean function whose block sensitivity is strictly greater than
+its sensitivity. Source: [Nisan1989](https://dl.acm.org/doi/10.1145/73007.73038).
+
+`nisanExample(x) = 1` iff the Hamming weight of `x` is either
+`n/2` or `n/2 + 1`. We assume `n` is a multiple of 4. By analyzing `x`
+with Hamming weight `n/2` (the function is symmetric, so only the weight
+matters), one can check that
+
+* `s(f) = n/2`,
+* `bs(f) = 3n/4`.
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]: Can you actually state these below?

**Comment by mjsong32** [comment]
Thanks again for the review! I've incorporated the suggestions and added the statements for the sensitivity and block sensitivity of `nisanExample`. Let me know if anything else is needed.

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 10]
```diff
@@ -0,0 +1,132 @@
...
+The function is symmetric, so its value only depends on the Hamming weight
+of the input. -/
+@[category test]
+def nisanExample (n : ℕ) (x : Fin n → Bool) : Bool :=
+  let w := #{i | x i}
+  decide (w ∈ ({n / 2, n / 2 + 1} : Finset ℕ))
+
+/-- Assuming `n` is a multiple of 4, the sensitivity of `nisanExample`
+is `n/2`, achieved by any `x` with Hamming weight `n/2`. -/
+lemma nisanExample_sensitivity (n : ℕ) (hn : 4 ∣ n) :
```
Comment (YaelDillies) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean:120]: You'll need to tag these like the other ones:
```suggestion
@[category test, AMS 68]
lemma nisanExample_sensitivity (n : ℕ) (hn : 4 ∣ n) :
```
Same above and below

File: FormalConjectures/Paper/StrongSensitivityConjecture.lean [hunk 11]
```diff
@@ -0,0 +1,132 @@
...
+
+/-- Simple test example,
+A Boolean function whose block sensitivity is strictly greater than
+its sensitivity. Source: [Nisan1989](https://dl.acm.org/doi/10.1145/73007.73038).
+
+`nisanExample(x) = 1` iff the Hamming weight of `x` is either
+`n/2` or `n/2 + 1`. We assume `n` is a multiple of 4.
+The function is symmetric, so its value only depends on the Hamming weight
+of the input. -/
+@[category test]
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/StrongSensitivityConjecture.lean]: Generally speaking we reserve the `test` category to theorems (though this particular use case is understandable)

**Comment by mjsong32** [comment]
Thanks for the suggestions! I've added the category tags. @Paul-Lez Thanks for the clarification. I'll keep that convention in mind for future contributions.

**Review by YaelDillies — APPROVED** [review]
Thanks! Let's get this merged.

**Comment by Paul-Lez** [comment]
> Thanks for the suggestions! I've added the category tags. @Paul-Lez Thanks for the clarification. I'll keep that convention in mind for future contributions.

Sounds good - looking forward to the next contributions;)
